Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Progesterone in Oil
 
Attending: ___.
 
Chief Complaint:
Hypoxemic respiratory distress

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs. ___ is a ___ year old pregnant woman at 6 weeks EGA with 
a past medical history significant for asthma admitted on ___ 
for fever, cough, and dyspnea felt to be due to CAP now 
transferred to the MICU for hypoxemic respiratory distress.  The 
patient reports that symptoms started 3 days ago with fever to 
100.7 (ear) and non-productive cough, with progressively 
worsening dyspnea on minimal exertion such that on the day of 
admission she had difficulty walking to her bathroom. She does 
have a history of well controlled asthma, although states that 
her current symptoms are not consistent with prior asthma flare 
although dypsnea did improve with albuterol MDI.  She does 
endorse rhinorrhea and fatigue, but denies any sore throat, 
myalgias, LBP, sinus congestion, or wheezing.  Her husband had a 
cough several days ago, but denies any other sick contacts or 
recent travel.  She initially presented to an OSH ED, where she 
had a CXR demonstrating bilateral lower lung field opacities 
(R>L) felt to be CAP and was treated with CTX and azithromycin, 
and was transferred to ___ for further management.
.
Her ___ course has been notable for a persistent tachcyardia, 
tachypnea, and an increasing oxygen requirement now up to a 15L 
face mask from 4L on admission.  ABG prior to MICU transfer 
___ on 50% FM.  Given persistent tachycardia, tachypnea, 
and increasing oxygen requirement, she was transferred to the 
MICU for further management.
.
Currently, the patient states that her breathing is improved 
after a neb treatment. She denies any CP, palpitations, ST, HA, 
LBP, muscle aches, or wheezing.

 
Past Medical History:
1. Asthma. Only requires albuterol with URI's. Under good 
control  
on flovent 110mcg 2 puffs bid. No nocturnal awakenings, ICU 
admissions, inbutations, or ED visits.
2. B12 deficiency. Had low B12 in 180's in ___ and has been on  

___ since then with normal B12 levels. This was just stopped 
 
when she was changed to prenatal vitamin, was told that it has  
B12 in it.  
3. Severely atypical nevus removed from her back. Sees Dr.  
___, saw her last over the summer.  
4. Pregnancy - 6 wks EGA with IVF treatments.

 
Social History:
___
Family History:
Mother - MI age ___, non-melanoma skin  
CA, DM. Father - prostate CA, AAA, DM. Maternal aunt/uncle -  
melanoma. 5 of 8 maternal aunts/uncles with CAD in ___. 4 of 
 
paternal aunts/uncles w/ CAD in ___. MGF - DM. MGM - CAD  
___. PGM - CAD ___. No family h/o clotting disorders  

 
Physical Exam:
ADMISSION:
VS: 99.8 105 130/93 37 96% on 50% venturi
Gen: Labored breathing
HEENT: MM dry, OP clear, neck supple without LAD
CV: Tachy S1+S2
Pulm: Bronchial breath sounds at the bases bilaterally with 
dullness to percussion. Scattered expiratory wheezes 
bilaterally.
Abd: S/NT/ND +bs
Ext: No c/c/e.
Neuro: AOx3, CN II-XII intact.

DISCHARGE:
VS: afebrile, 140s/80s, 70-80, 98% on RA
GA: AOx3, NAD
HEENT:  PERRLA. MMM. no LAD. no JVD. neck supple. 
Cards:  RRR S1/S2 heard. no murmurs/gallops/rubs.
Pulm: CTAB
Abd: soft, NT, +BS. no g/r.
Extremities: wwp, no edema. DPs, PTs 2+.
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities.
 
Pertinent Results:
RELEVANT AND REPRESENTATIVE LABS:
CBC and coags:
-___ 05:40PM BLOOD WBC-27.1*# RBC-4.37 Hgb-14.0 Hct-39.4 
MCV-90 MCH-32.0 MCHC-35.5* RDW-12.6 Plt ___
   -___ 05:40PM BLOOD Neuts-77.9* Lymphs-7.6* Monos-2.8 
Eos-11.6* Baso-0.2
   -___ 06:24AM BLOOD Neuts-72.9* Lymphs-8.1* Monos-2.6 
Eos-15.9* Baso-0.3
-___ 03:35AM BLOOD WBC-20.4* RBC-3.94* Hgb-12.5 Hct-35.5* 
MCV-90 MCH-31.7 MCHC-35.1* RDW-12.5 Plt ___
   -___ 03:35AM BLOOD Neuts-84* Bands-1 Lymphs-5* Monos-6 
Eos-1 Baso-0 ___ Metas-1* Myelos-2*
-___ 07:20AM BLOOD WBC-14.6* RBC-3.76* Hgb-11.6* Hct-33.9* 
MCV-90 MCH-30.7 MCHC-34.1 RDW-12.6 Plt ___
-___ 07:30AM BLOOD WBC-13.8* RBC-3.66* Hgb-11.7* Hct-32.7* 
MCV-89 MCH-32.1* MCHC-35.9* RDW-12.5 Plt ___
-___ 04:47AM BLOOD ___ PTT-23.4 ___
.
Chem:
-___ 05:40PM BLOOD Glucose-90 UreaN-8 Creat-0.6 Na-138 
K-4.0 Cl-103 HCO3-21*
-___ 03:35AM BLOOD Glucose-140* UreaN-9 Creat-0.6 Na-138 
K-3.7 Cl-106 HCO3-21* 
-___ 07:20AM BLOOD Glucose-129* UreaN-14 Creat-0.5 Na-136 
K-4.1 Cl-103 HCO3-24 
-___ 07:30AM BLOOD Glucose-75 UreaN-13 Creat-0.6 Na-136 
K-3.3 Cl-103 HCO3-24
.
LFTs
-___ 06:24AM BLOOD ALT-15 AST-16 LD(LDH)-238 AlkPhos-57 
TotBili-0.3
.
Misc: 
-___ 04:47AM BLOOD calTIBC-230* Ferritn-185* TRF-177*
-___ 02:35PM BLOOD ANCA-NEGATIVE B
-___ 05:40PM BLOOD HCG-7597
-___ 05:53PM BLOOD Lactate-1.4
.
.
IMAGING:
.
TVUS ___:
Single live intrauterine gestation corresponding to a 
gestational 
age of 6 weeks 4 days. 
.
CXR ___: 
Moderate-to-severe pulmonary edema, without evidence of pleural 
effusions.  Borderline size of the cardiac silhouette. No 
interval appearance of new parenchymal opacities. 
.
SPIROMETRY10:30 AMPre drugPost drug
  ActualPred%PredActual%Pred%chg
FVC ___   
FEV1 ___   
MMF ___   
FEV1/FVC ___
 
Brief Hospital Course:
Mrs. ___ is a ___ year old pregnant woman at 6 weeks EGA by 
IVF with a past medical history significant for asthma admitted 
on ___ for fever, cough, and dyspnea felt to be due to CAP, but 
found to have eosinophilic pneumonitis.

# Eosinophilic pneumonitis: Patient's A-a gradient was >180 with 
potential etiologies including V/Q mismatch, diffusion 
abnormality, or shunt.  Given absolute eosinophilic count of 
>3000, fever, and acute shortness of breath, the diagnosis of 
acute eosinophilic pneumonia was presumptively made.  She was 
treated with solumedrol 125 Q6H with improvement in symptoms and 
rapid weaning of supplemental oxygen to room air.  She was also 
covered for pneumonia initially with vancomycin and 
levofloxacin, but the regimen was narrowed to a 5 day course of 
azithromycin, which she completed while hospitalized.  She was 
also initially treated with oseltamavir, which was discontinued 
after Influenza DFA returned negative.  Patient was transitioned 
to prednisone 60 mg daily, and she will continue this dose until 
follow-up with Dr. ___ as an outpatient.  Her 
eosinophilic pneumonitis was felt to be secondary to IM 
progesterone in sesame oil suspension, and progesterone was 
changed to intravaginal preparation.  She will require PCP 
prophylaxis if steroid course continues for longer than 1 month, 
and this will be determined as an outpatient.

# Pregnancy: Intravaginal fetal u/s performed during MICU course 
demonstrating viable fetus. OB consulted on the patient, and 
___ was also consulted for blood glucose control (see below). 
 She will continue intravaginal progesterone as above, and 
follow-up with OB/Gyn.

# Hyperglycemia: elevated FSBG in the setting of steroid use.  
Patient was started on sliding scale insulin per ___ recs for 
goal fingerstick <130 at one hour post-prandial.  She will 
continue insulin at home and f/u with the Diabetes in Pregnancy 
Center at ___.

# Asthma: Continued on nebs during admission.

# Code: full
 
Medications on Admission:
ALBUTEROL SULFATE - 90 mcg HFA Aerosol Inhaler - 2 puffs qid prn 
 
FLUTICASONE [FLOVENT HFA] - 110 mcg/Actuation Aerosol - 2 puffs  

twice a day  
PRENATAL VIT-IRON FUMARATE-FA [PRENATAL VITAMIN] - (Prescribed  
by Other Provider) - Dosage uncertain  
PROGESTERONE 50 mg/mL 1 mL QHS at 8:30 pm  

 
Discharge Medications:
1. Prenatal ___ mg-mcg Capsule Sig: One (1) Capsule PO once a 
day.  
2. progesterone micronized 8 % Gel Sig: One (1) Appl Vaginal QHS 
(once a day (at bedtime)) for 4 weeks.
Disp:*QS gel* Refills:*0*
3. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q6H (every 6 hours) as needed for shortness 
of breath, wheeze.  
4. Supplies
"Humalog Kwik-pen" 1 box of 5 pens

5. Supplies
Humalog "pen needle" 31x3/16 needle, 200 needles

6. One Touch Delica Lancets     Misc Sig: One (1) lancet 
Miscellaneous four times a day: fasting and 1hour post-meals.
Disp:*200 lancets* Refills:*0*
7. One Touch Test     Strip Sig: One (1) strip Miscellaneous 
four times a day: fasting and 1hour post-meal.
Disp:*200 strips* Refills:*0*
8. prednisone 20 mg Tablet Sig: Three (3) Tablet PO once a day: 
Take until you see pulmonary doctors.
Disp:*75 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Eosinophilic pneumonitis
Hyperglycemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were seen in the hospital for shortness of breath, likely 
caused by eosinophilic pneumonitis (pneumonia associated with an 
increase in a white blood cell called eosinophils).  This 
improved with steroids.  Please continue taking prednisone 60 mg 
daily until you see Dr. ___ at your followup appointment.

You were also found to have elevated blood sugars after being 
started on prednisone, which is a common side effect.  Please 
continue taking insulin with meals as directed.  You should 
follow up with an endocrinologist at the ___ as 
indicated below.

Changes to your medications:
-START taking humalog insulin as directed by ___: 6units 
before breakfast, 6units before lunch, 7units before dinner
-START taking prednisone 60 mg daily until you see Dr. ___ taking progesterone IM shots, and START taking 
progesterone intravaginally daily
 
Followup Instructions:
___